US04508658
17 g. (0.2 moles) of cyanoacetic acid are mixed thorougly with 53.2 g. (0.2 moles) of pentachlorophenol, and 19.0 ml. (0.2 moles) of phosphoroxychloride are added dropwise. The obtained mixture is heated slowly on an oil-bath, until the inner temperature rises to 85° to 90° C. and the solid melts under intensive evolution of HCl. The homogeneous melt is heated until the hydrochloric acid evolution ceases. In the meantime the first cyanoacetic acid pentachlorophenyl ester precipitate is obtained. When the hydrochloric acid evolution ceases, the system is cooled and dissolved in 500 ml. of dichloromethane, washed 3 times with 100 ml. of water, treated with decolorizing charcoal, dried and evaporated. Diisopropyl ether is added. Cyanoacetic acid pentachlorophenyl ester precipitates in the form of crystals.

reactant | cyanoacetic acid | 0.2 moles | C(#N)CC(=O)O | C3H3NO2
reactant | pentachlorophenol | 0.2 moles | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | phosphoroxychloride | 0.2 moles | O=P(Cl)(Cl)Cl | Cl3OP
reactant | HCl | Cl | ClH
product | cyanoacetic acid pentachlorophenyl ester | ClC1=C(C(=C(C(=C1OC(CC#N)=O)Cl)Cl)Cl)Cl | C9H2Cl5NO2
